US07700641B2
B. Synthesis of 4-methoxy-1H-indole-2,3-dione
A mixture of ethyl 2-(2-(tert-butoxycarbonylamino)-6-methoxyphenyl)-2-oxoacetate (3.70 g, 110 mmol) and 10% H2SO4 (100 mL) was heated at 100° C. for 10 hours. After cooling down to ambient temperature, the reaction mixture was extracted with ether (3×100 mL). The combined ether solution was washed with water (2×50.0 mL), dried over sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness. The residue was subjected to column chromatography to give 0.37 g (19%) of the title compound: MS (ES+) m/z 200.1 (M+23).

reactant | ethyl 2-(2-(tert-butoxycarbonylamino)-6-methoxyphenyl)-2-oxoacetate | 110 mmol, 3.70 g | C(C)(C)(C)OC(=O)NC1=C(C(=CC=C1)OC)C(C(=O)OCC)=O | C16H21NO6
solvent | H2SO4 | 100 mL | OS(=O)(=O)O | H2O4S
product | 4-methoxy-1H-indole-2,3-dione | 0.37 g, 19% | COC1=C2C(C(NC2=CC=C1)=O)=O | C9H7NO3
